US07381719B2
3-Bromo-4-(4-formyl-phenoxy)-benzamide
Add K2CO3 (1.49 g, 10.8 mmol) to a solution of 4-fluorobenzaldehyde (1.16 mL, 10.8 mmol) and 3-bromo-4-hydroxy-benzamide (1.16 g, 5.4 mmol) in DMF (20 mL). Heat the mixture under N2 overnight. Cool the mixture at room temperature and pour it into ice-water. Extract the aqueous layer with EtOAc. Dry the organic layer over Na2SO4. Eliminate the solvent. Purify by flash chromatography (eluent: EtOAc/hexane 2/1 and 4/1) to get the title compound (1.0 g, 58%). 1H-NMR (metanol-d4, 300 MHz): 9.84 (s, 1H), 8.18 (d, 1H, J=2.0 Hz), 7.88-7.83 (m, 3H), 7.13 (d, 1H, J=8.5 Hz), 7.04-7.01 (m, 2H).

reactant | K2CO3 | 10.8 mmol, 1.49 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzaldehyde | 10.8 mmol, 1.16 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-bromo-4-hydroxy-benzamide | 5.4 mmol, 1.16 g | BrC=1C=C(C(=O)N)C=CC1O | C7H6BrNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-4-(4-formyl-phenoxy)-benzamide | 1.0 g, 58% | BrC=1C=C(C(=O)N)C=CC1OC1=CC=C(C=C1)C=O | C14H10BrNO3
